US09353096B2
The crude mixture from above which contained about 60% of 2-(2-hydroxyethylamino)-1-(2-isopropylpyrimidin-4-yl)ethanol (1.08 g, 2.88 mmol, Eq: 1.00) and 40% starting 2-amino-1-(2-isopropylpyrimidin-4-yl)ethanol was dissolved in 50 mL of dichloromethane. To this stirred solution was added di-tert-butyl dicarbonate (628 mg, 2.88 mmol, Eq: 1.00). The solution was stirred at room temperature overnight. Solvents were evaporated and the residue was purified by Analogix flash column chromatography (0% to 60% ethyl acetate in hexanes gradient) to afford (2-hydroxyethyl)-[2-hydroxy-2-(2-isopropyl-pyrimidin-4-yl)-ethyl]-carbamic acid tert-butyl ester (396 mg). (M+H)+=326 m/e. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 1.30-1.56 (m, 16H) 3.08-4.01 (m, 8H) 4.87-5.12 (m, 1H) 7.16-7.40 (m, 2H) 8.68 (br. s., 1H).

reactant | 2-(2-hydroxyethylamino)-1-(2-isopropylpyrimidin-4-yl)ethanol | 2.88 mmol, 1.08 g | OCCNCC(O)C1=NC(=NC=C1)C(C)C | C11H19N3O2
reactant | 2-amino-1-(2-isopropylpyrimidin-4-yl)ethanol | NCC(O)C1=NC(=NC=C1)C(C)C | C9H15N3O
reactant | di-tert-butyl dicarbonate | 2.88 mmol, 628 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (2-hydroxyethyl)-[2-hydroxy-2-(2-isopropyl-pyrimidin-4-yl)-ethyl]-carbamic acid tert-butyl ester | 396 mg | C(C)(C)(C)OC(N(CC(C1=NC(=NC=C1)C(C)C)O)CCO)=O | C16H27N3O4
